US06994941B2
Into a 1 liter three-necked reaction vessel fitted with a cooling tube and a mechanical stirrer, 133 g (1.1 mols) of 2,4-dimethylphenylamine, 185 g (1.0 mol) of 1-bromo-2,4-dimethylbenzene, 11.2 g (0.05 mol) of palladium acetate, 32.4 g (0.2 mol) of 2-tert-butylphosphinoyl-2-methylpropane, 212 g (1.0 mol) of tripotassium phosphate and 500 mL of dimethylformamide were introduced to effect reflux for 12 hours in a nitrogen gas atmosphere and with heating in an oil bath. After the reaction was completed, the reaction mixture was left to cool to room temperature, followed by extraction with toluene/water, then washing with hydrochloric acid water, and thereafter distillation of the organic layer under reduced pressure to give the desired bis(2,4-dimethylphenyl)amine. The compound obtained was in a yield of 189 g corresponding to 84%. The compound obtained was measured with an elementary analyzer (CHN CORDER MT-5, manufactured by Yanako K.K.). In the following elementary analyses, the units of the found values and calculated values are % by weight.

reactant | 2,4-dimethylphenylamine | 1.1 mols, 133 g | CC1=C(C=CC(=C1)C)N | C8H11N
reactant | 1-bromo-2,4-dimethylbenzene | 1.0 mol, 185 g | BrC1=C(C=C(C=C1)C)C | C8H9Br
reactant | 2-tert-butylphosphinoyl-2-methylpropane | 0.2 mol, 32.4 g | C(C)(C)(C)P(=O)C(C)(C)C | C8H19OP
reactant | tripotassium phosphate | 1.0 mol, 212 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | 0.05 mol, 11.2 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
product | bis(2,4-dimethylphenyl)amine | CC1=C(C=CC(=C1)C)NC1=C(C=C(C=C1)C)C | C16H19N
